US07790756B2
1-(4-(2-Cyanopyridin-4-yloxy)-2-fluorophenyl)-3-(3-isopropyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)urea (0.108 g, 0.221 mmol) and N-acetylcysteine (0.072 g, 0.441 mmol) were dissolved in MeOH (0.3 mL). Ammonium acetate (0.041 g, 0.0.529 mmol) was added and the reaction mixture was heated at 60° C. under N2 overnight. The completed reaction was diluted with H2O (10 ml), basified by K2CO3, extracted with EtOAc (2×30 mL) and THF (20 mL). The combined organic layers were washed with brine (20 mL), dried (MgSO4), concentrated in vacuo and purified by chromatography to afford 1-(4-(2-carbamimidoylpyridin-4-yloxy)-2-fluorophenyl)-3-(3-isopropyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)urea (0.019 g, 17% yield) as a white solid. This was converted to corresponding HCl salt by reacting with HCl (4.0 M HCl/dioxane, 1.0 eq.). 1H NMR (DMSO-d6) δ 9.57 (s, 2H), 9.36-9.34 (m, 2H), 9.20 (d, J=1.2 Hz, 1H), 9.09 (dd, J=4.4, 1.2 Hz, 1H), 8.74 (d, J=8.0 Hz, 1H), 8.68 (d, J=5.2 Hz, 1H), 8.35 (d, J=2.0 Hz, 1H), 8.28 (d, J=9.2 Hz, 1H), 8.18-8.10 (m, 2H), 7.92 (d, J=2.4 Hz, 1H), 7.80 (dd, J=8.4, 4.8 Hz, 1H), 7.32-7.26 (m, 2H), 7.05 (dd, J=8.8, 1.2 Hz, 1H), 6.44 (s, 1H), 2.97-2.93 (m, 1H), 1.28 (d, J=6.8 Hz, 6H); MS (ESI) m/z: 525.3 (M+H+).

reactant | 1-(4-(2-Cyanopyridin-4-yloxy)-2-fluorophenyl)-3-(3-isopropyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)urea | 0.221 mmol, 0.108 g | C(#N)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC(=NN1C=1C=C2C=CC=NC2=CC1)C(C)C)F | C28H22FN7O2
reactant | N-acetylcysteine | 0.441 mmol, 0.072 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | Ammonium acetate | 0.041 g | C(C)(=O)[O-].[NH4+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 0.3 mL | CO | CH4O
solvent | H2O | 10 ml | O | H2O
product | 1-(4-(2-carbamimidoylpyridin-4-yloxy)-2-fluorophenyl)-3-(3-isopropyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)urea | 0.019 g, 17% yield | C(N)(=N)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC(=NN1C=1C=C2C=CC=NC2=CC1)C(C)C)F | C28H25FN8O2
